US07935727B2
Methyl 2″-{[[3,5-bis(trifluoromethyl)benzyl] (methoxycarbonyl)amino]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (34.7 mg, 0.0486 mmol), lithium hydroxide monohydrate (10 mg, 0.238 mmol), water (0.4 mL) and 1,4-dioxane (1 mL) were stirred at room temperature for 5.5 hours to complete the reaction. Crude mixture was acidified with HCl (aq, 1N, 6 mL). The resulting mixture was worked up with brine and extracted with ethyl acetate. The combined extracts were back-washed with water. The resulting organic layer was dried over Na2SO4, filtered and evaporated in vacuo to afford a clear oil. The resulting oil was purified on SiO2 to afford as a clear glass 2″-{[[3,5-bis(trifluoromethyl)benzyl] (methoxycarbonyl)amino]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid. LCMS calc.=699.17; found=700.29 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 8.01 (s, 1H), 7.95 (d, J=7.5 Hz, 1H), 7.72 (s, 1H), 7.58 (d, J=8.0 Hz, 1H), 7.55-7.46 (m, 1.5H), 7.43-7.34 (m, 2.5H), 7.32-7.25 (m, 1H), 7.07-7.5 (m, 1H), 4.62-4.22 (m, 4H), 3.77 (s, 3H), 3.73 (d, J=17 Hz, 3H), 3.32 (s, 3H).

reactant | Methyl 2″-{[[3,5-bis(trifluoromethyl)benzyl] (methoxycarbonyl)amino]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.0486 mmol, 34.7 mg | FC(C=1C=C(CN(C(=O)OC)CC2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)OC)C)C=C(C1)C(F)(F)F)(F)F | C35H28F9NO5
reactant | lithium hydroxide monohydrate | 0.238 mmol, 10 mg | O.[OH-].[Li+]
reactant | water | 0.4 mL | O | H2O
reactant | HCl | 1N, 6 mL | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2″-{[[3,5-bis(trifluoromethyl)benzyl] (methoxycarbonyl)amino]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | FC(C=1C=C(CN(C(=O)OC)CC2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)O)C)C=C(C1)C(F)(F)F)(F)F | C34H26F9NO5
